US06005000
Quinoline (70 μL, 0.6 mmol), 15 mg of 5% Pd/BaSO4 and 61 mg (0.25 mmol) of 3,4-dihydroxy-5-[(4-phenyl)-3-butynyl]-2(5H)-furanone were combined in 20 mL of ethanol and hydrogenated at atmospheric pressure until 12 mL (0.5 mmol) of H2 was consumed as measured by a H2O filled burette. The catalyst was removed by filtration through two #1 fluted filter papers and the solution was concentrated to a volume of about 5 mL, taken up in 50 mL of ether and washed with 3×15 mL of 5% aqueous HCl, 20 mL of H2O and 20 mL of brine, dried (MgSO4) and concentrated to provide 3,4-dihydroxy-5-(4-phenylbutanyl)-2(5H)-furanone as a brown wax: 1H NMR (acetone-d6) δ 7.28-7.13 (m, 5H), 4.66 (dd, J=3.4, 7.2 Hz, 1H), 2.62 (t, J=7.7, 2H), 2.00-1.93 (m, 1H), 1.69-1.42 (m, 5H); 13C NMR (acetone-d6) δ 170.7, 154.9, 143.3, 129.2, 129.1, 126.5, 118.6, 76.2, 36.3, 32.7, 32.1, 24.6. Anal Calcd for C14H16O4 +0.25 H2O: C, 66.52; H, 6.58. Found: C, 66.71; H, 6.75.

reactant | Quinoline | 0.6 mmol, 70 μL | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 3,4-dihydroxy-5-[(4-phenyl)-3-butynyl]-2(5H)-furanone | 0.25 mmol, 61 mg | OC=1C(OC(C1O)CCC#CC1=CC=CC=C1)=O | C14H12O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd BaSO4 | 15 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | 3,4-dihydroxy-5-(4-phenylbutanyl)-2(5H)-furanone | OC=1C(OC(C1O)CCCCC1=CC=CC=C1)=O | C14H16O4
